US08034945B2
(b). 3-Amino-N-[2-bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-(propane-1-sulfonylamino)-phenyl]-benzamide
To a solution of N-[2-bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-(propane-1-sulfonylamino)-phenyl]-3-nitro-benzamide (412 mg) and acetic acid (520 μl) in THF (10 ml), cooled to 0° C., was added zinc dust (810 mg) under vigorous stirring. After stirring for 4 h, the mixture was filtered and concentrated in vacuo. The residue was dissolved in dichloromethane and washed with water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | N-[2-bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-(propane-1-sulfonylamino)-phenyl]-3-nitro-benzamide | 412 mg | BrC1=C(C(=CC(=C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)NS(=O)(=O)CCC)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C30H32BrN5O6S
reactant | acetic acid | 520 μl | C(C)(=O)O | C2H4O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc | 810 mg | [Zn] | Zn
product | 3-Amino-N-[2-bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-(propane-1-sulfonylamino)-phenyl]-benzamide | NC=1C=C(C(=O)NC2=C(C=C(C=C2NS(=O)(=O)CCC)C2C(=C(NC=3CC(CC(C23)=O)CCC)C)C#N)Br)C=CC1 | C30H34BrN5O4S
